US07273875B2
(4-iodo-cyclohexyloxy)-acetic acid tert-butyl ester
Triphenylphosphine (1.18 g, 4.49 mmol), imidazole (0.31 g, 4.49 mmol) and iodine (1.14 g, 4.49 mmol) are added to a solution of (4-hydroxy-cyclohexyloxy)-acetic acid tert-butyl ester (cis:trans=ca. 1:1) (0.86 g, 3.74 mmol) in a mixture of CH2Cl2 (10 ml)/CCl4 (20 ml) at 0° C. The cooling bath is removed and the reaction mixture is stirred at room temperature for 18 hours. Saturated aq. Na2S2O3 (10 ml) is added and the mixture is stirred for 15 minutes. The layers are separated and the aqueous layer is re-extracted with CH2Cl2 (×3). The combined organic extracts are washed with brine (×1), dried (Na2SO4), filtered and concentrated. Purification by chromatography on silica gel, eluting with 5% ethyl acetate in isohexane, gives the product.

reactant | Triphenylphosphine | 4.49 mmol, 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 4.49 mmol, 0.31 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 4.49 mmol, 1.14 g | II | I2
reactant | (4-hydroxy-cyclohexyloxy)-acetic acid tert-butyl ester | 3.74 mmol, 0.86 g | C(C)(C)(C)OC(COC1CCC(CC1)O)=O | C12H22O4
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (4-iodo-cyclohexyloxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1CCC(CC1)I)=O | C12H21IO3
